US06875761B2
(224-1) 2-Bromo-4-fluorobenzaldehyde
2-Bromo-4-fluorotoluene (10.215 g) was dissolved in ethyl acetate (100 ml), N-bromosuccinimide (11.3 g) and 70% benzoyl peroxide (200 mg) were added thereto, and the resulting mixture was stirred under heating at 80° C. for 1 hr. After the reaction solution was cooled, the resulting insoluble matters were filtered off. The resulting filtrate was washed with an aqueous solution of saturated sodium bicarbonate, dried (over MgSO4) and evaporated. The resulting residue was dissolved in acetic acid (30 ml), water (30 ml) and hexamethylene tetramine (15.14 g) were added thereto, and the resulting mixture was heated under stirring at 100° C. for 1 hr. To the mixture was added 38% hydrochloric acid (20 ml), which was then stirred for 1 hr, and then it was cooled as it was, and extracted with ethyl acetate. The resulting organic phase was washed with an aqueous solution of saturated sodium bicarbonate, dried (over MgSO4) and evaporated. The resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a colorless solid (4.376 g, yield; 41%.

reactant | 2-Bromo-4-fluorotoluene | 10.215 g | BrC1=C(C=CC(=C1)F)C | C7H6BrF
reactant | N-bromosuccinimide | 11.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 200 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-4-fluorobenzaldehyde | yield; 41% | BrC1=C(C=O)C=CC(=C1)F | C7H4BrFO
